US04258185
A solution of 4.9 g of 4-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)carbonyl-γ-butyrolactone and 3.0 ml of 85% hydrazine hydrate in 50 ml of ethanol was heated under reflux overnight. The reaction mixture was concentrated under reduced pressure and ice-cold water was added to the residue. After the mixture was allowed to stand, the precipitated crystals were filtered off and recrystallized from water to give 2.5 g of 6-(5-hydroxymethyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2,4,5-tetrahydroquinolin-2-one as colorless prisms, melting at 201°-204° C.

reactant | 4-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl)carbonyl-γ-butyrolactone | 4.9 g | CN1C(CCC2=CC(=CC=C12)C(=O)C1CCC(=O)O1)=O | C15H15NO4
reactant | hydrazine hydrate | 3.0 ml | O.NN
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(5-hydroxymethyl-3-oxo-2,3,4,5-tetrahydropyridazin-6-yl)-1-methyl-1,2,4,5-tetrahydroquinolin-2-one | 2.5 g | OCC1CC(NN=C1C=1CC2CCC(N(C2=CC1)C)=O)=O | C15H19N3O3
